US06352993B1
5,6-dimethyl-2-(1-naphthylmethyl)amino-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl) pyrimidine hydrochloride
After 1-naphthylmethylamine(0.38 ml, 2.61 mmol) and triethylamine (0.36 ml, 2.59 mmol) were added to a solution of 2-chloro-5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine(0.5 g, 1.74 mmol) in dimethylformamide, 630 mg of the titled compound was obtained in accordance with the same procedure as in Example 1.

reactant | 1-naphthylmethylamine | 2.61 mmol, 0.38 ml | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
reactant | triethylamine | 2.59 mmol, 0.36 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 1.74 mmol, 0.5 g | ClC1=NC(=C(C(=N1)N1C(C2=CC=CC=C2CC1)C)C)C | C16H18ClN3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-(1-naphthylmethyl)amino-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl) pyrimidine hydrochloride | 630 mg, Yield: 81.4% | Cl.CC=1C(=NC(=NC1C)NCC1=CC=CC2=CC=CC=C12)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C27H28N4.ClH/c1-18-19(2)29-27(28-17-23-12-8-11-21-9-5-7-14-25(21)23)30-26(18)31-16-15-22-10-4-6-13-24(22)20(31)3;/h4-14,20H,15-17H2,1-3H3,(H,28,29,30);1H
